US08895566B2
A solution of lithium tetrahydroborate (190 mg, 8.50 mmol) in THF (4 mL) was cooled to 0° C. Chlorotrimethylsilane (2.2 mL, 17 mmol) was added dropwise. The mixture was stirred for 20 minutes at room temperature and then returned to 0° C. (S)-2-amino-3-(2,4-dichlorophenyl)propanoic acid (1.00 g, 4.27 mmol) was then added. The reaction was allowed to warm up slowly to room temperature while stirring overnight. The mixture was cooled to 0° C. and quenched by slow addition of methanol (1 mL) followed by an aqueous solution of 2N sodium hydroxide (4.2 mL, 8.54 mmol). Volatiles were removed under reduces pressure. The slurry was diluted with water (5 mL) and extracted with DCM (3×15 mL). The combined organic layers were washed with brine, dried over Na2SO4, filtered and concentrated to afford (S)-2-amino-3-(2,4-dichlorophenyl)propan-1-ol as a solid that was used in the next step without further purification. MS m/z 220 (M+).

reactant | lithium tetrahydroborate | 8.50 mmol, 190 mg | [BH4-].[Li+]
reactant | Chlorotrimethylsilane | 17 mmol, 2.2 mL | Cl[Si](C)(C)C | C3H9ClSi
reactant | (S)-2-amino-3-(2,4-dichlorophenyl)propanoic acid | 4.27 mmol, 1.00 g | N[C@H](C(=O)O)CC1=C(C=C(C=C1)Cl)Cl | C9H9Cl2NO2
reactant | sodium hydroxide | 8.54 mmol, 2N, 4.2 mL | [OH-].[Na+]
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | (S)-2-amino-3-(2,4-dichlorophenyl)propan-1-ol | N[C@H](CO)CC1=C(C=C(C=C1)Cl)Cl | C9H11Cl2NO
